US07795249B2
To a solution of give 2-bromo-5-(dimethylamino)benzoic acid (7.89 g, 32.3 mmol) in DMF (25 mL) was added N,N-carbonyldiimidazole (13.1 g, 80.8 mmol). The reaction mixture was allowed to stir at rt for 30 min and then ammonium carbonate (14.0 g, 145 mmol) was added. The reaction mixture was allowed to stir at rt overnight and then poured into water. The mixture was extracted with EtOAc. The organic solutions were combined, washed with water and brine, dried over Na2SO4, filtered and concentrated to give 2-bromo-5-(dimethylamino)benzamide (2.14 g, 27%). The product could be further purified by recrystallization from MeOH.

reactant | 2-bromo-5-(dimethylamino)benzoic acid | 32.3 mmol, 7.89 g | BrC1=C(C(=O)O)C=C(C=C1)N(C)C | C9H10BrNO2
reactant | N,N-carbonyldiimidazole | 80.8 mmol, 13.1 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ammonium carbonate | 145 mmol, 14.0 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | water | O | H2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 2-bromo-5-(dimethylamino)benzamide | 2.14 g, 27% | BrC1=C(C(=O)N)C=C(C=C1)N(C)C | C9H11BrN2O
